US04443458
Methyl 3-(2,3-dihydroxypropyl)amino-2-butenoate (2)
To 5.0 g (0.051 m) methyl-2-butynoate in 25 ml absolute ethanol is added 5.0 g (0.055 m), 2,3-dihydroxypropylamine. This solution is heated at 75°-80° for 18 hours and the solvent is then removed at reduced pressure. The residue oil is chromatographed on silica gel, eluting with 10% methanol/chloroform to afford the desired product as a white solid. m.p. 109°-111°. The yield is 5.6 g (59%).

reactant | methyl-2-butynoate | 5.0 g | COC(C#CC)=O | C5H6O2
reactant | 2,3-dihydroxypropylamine | OC(CN)CO | C3H9NO2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | Methyl 3-(2,3-dihydroxypropyl)amino-2-butenoate | OC(CNC(=CC(=O)OC)C)CO | C8H15NO4
